US08871753B2
Step A: 7-Iodo-5-nitro-3-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-benzoxazol-2(3H)-one
A solution of 7-iodo-5-nitro-1,3-benzoxazol-2(3H)-one (0.76 g, 2.5 mmol) in N,N-dimethylformamide (5 mL) at 0° C. was treated with N,N-diisopropylethylamine (0.65 mL, 3.7 mmol) followed by [β-(trimethylsilyl)ethoxy]methyl chloride (0.61 mL, 3.5 mmol) dropwise and stirred at 20° C. for 1 h. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with 0.5 M HCl (50 mL), brine (25 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to a crude oil. This material was purified by flash column chromatography to give the desired product (0.93 g, 86%) as a yellow oil.

reactant | 7-iodo-5-nitro-1,3-benzoxazol-2(3H)-one | 2.5 mmol, 0.76 g | IC1=CC(=CC=2NC(OC21)=O)[N+](=O)[O-] | C7H3IN2O4
reactant | N,N-diisopropylethylamine | 3.7 mmol, 0.65 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | [β-(trimethylsilyl)ethoxy]methyl chloride | 3.5 mmol, 0.61 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-Iodo-5-nitro-3-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-benzoxazol-2(3H)-one | 0.93 g, 86% | IC1=CC(=CC=2N(C(OC21)=O)COCC[Si](C)(C)C)[N+](=O)[O-] | C13H17IN2O5Si
